US07365225B2
(4-{[{[2-(4-{[(4-phenoxybenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}(3-phenylpropanoyl)amino]methyl}phenoxy)acetic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, 3-phenylpropanoyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 712.1

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | (4-{[{[2-(4-{[(4-phenoxybenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}(3-phenylpropanoyl)amino]methyl}phenoxy)acetic acid | O(C1=CC=CC=C1)C1=CC=C(CNC(=O)C2=CC=C(C=C2)C=2SC=C(N2)CN(C(CCC2=CC=CC=C2)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C42H37N3O6S
